US06603005B2
A mixture of 0.8 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(3,4,5-trifluoro-phenoxy)ethyl]piperidine-4-carboxylate in 50 cm3 of dioxane, 50 cm3 of methanol and 4.4 cm3 of aqueous 5N sodium hydroxide solution was stirred at a temperature in the region of 70° C. for 18 hours. A further 4.4 cm3 of aqueous 5N sodium hydroxide solution were added to the reaction mixture, which was stirred for 6 hours in the region of 70° C. After cooling to about 20° C., the reaction mass was concentrated to dryness under reduced pressure (1.1 kPa) at a temperature in the region of 5° C. The residue was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 4 cm; height 20 cm), eluting with a mixture of chloroform/methanol/aqueous ammonia (12/3/0.5 by volume) and collecting 60-cm3 fractions. Fractions 8 to 19 were combined, concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. and oven-dried under reduced pressure (10 kPa) at about 50° C. 0.59 g of 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(3,4,5-trifluorophenoxy)ethyl]piperidine-4-carboxylic acid was obtained in the form of a white solid melting at about 120° C.

reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(3,4,5-trifluoro-phenoxy)ethyl]piperidine-4-carboxylate | 0.8 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCOC1=CC(=C(C(=C1)F)F)F)C(=O)OCC)OC | C29H32F4N2O4
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | dioxane | 50 cm3 | O1CCOCC1 | C4H8O2
solvent | methanol | 50 cm3 | CO | CH4O
product | 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(3,4,5-trifluorophenoxy)ethyl]piperidine-4-carboxylic acid | 0.59 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCOC1=CC(=C(C(=C1)F)F)F)C(=O)O)OC | C27H28F4N2O4
